US08871361B2
Synthesis of 1-(2,6-diisopropylphenyl)-2-(5-methoxy-[1,1′-biphenyl]-3-yl)-1H-imidazole
To a 250 mL round bottom flask was mixed 2-chloroacetaldehyde (5.36 g, 34.2 mmol), NaHCO3 (2.87 g, 34.2 mmol), N-(2,6-diisopropylphenyl)-5-methoxy-[1,1′-biphenyl]-3-carboximidamide (6.6 g, 17.08 mmol) were charged in a flask and 100 mL of iso-propyl amine was added. The reaction mixture was heated up to reflux for 3 hours. The reaction mixture was diluted with water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. After silica gel chromatography with 10% ethyl acetate in hexane as solvent, 6.9 g of product was obtained.

reactant | 2-chloroacetaldehyde | 34.2 mmol, 5.36 g | ClCC=O | C2H3ClO
reactant | NaHCO3 | 34.2 mmol, 2.87 g | C(=O)(O)[O-].[Na+]
reactant | N-(2,6-diisopropylphenyl)-5-methoxy-[1,1′-biphenyl]-3-carboximidamide | 17.08 mmol, 6.6 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=N)C=1C=C(C=C(C1)OC)C1=CC=CC=C1 | C26H30N2O
reactant | iso-propyl amine | 100 mL | C(C)(C)N | C3H9N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-diisopropylphenyl)-2-(5-methoxy-[1,1′-biphenyl]-3-yl)-1H-imidazole | 6.9 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(=NC=C1)C=1C=C(C=C(C1)OC)C1=CC=CC=C1 | C28H30N2O
